US09085555B2
(S)-1-[2-(1-Acetyl-1H-indol-3-yl)-acetyl]-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide
To a solution of (S)-1-(2-1H-indol-3-yl-acetyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide (100 mg, 0.232 mmol) in DMF (1.5 mL) under nitrogen atmosphere were added acetyl chloride (148 μl, 2.09 mmol) followed by DMAP (85 mg, 0.7 mmol) and the reaction mixture was heated at 80° C. for 18 h. After completion of the reaction, the mixture was poured into citric acid (10% solution), and extracted three times with EtOAc. The combined organic layers were washed twice with water, dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative HPLC (Waters SunFire C18-ODB, 5 μm, 19×50 mm, 20% CH3CN/H2O 2.5 min, 20-100% CH3CN/H2O in 10 min, CH3CN/H2O containing 0.1% HCOOH flow: 20 mL/min) to give after lyophilization of the purified fractions the desired compound.

reactant | (S)-1-(2-1H-indol-3-yl-acetyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | 0.232 mmol, 100 mg | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N(CCC1)C(CC1=CNC2=CC=CC=C12)=O)(F)F | C22H20F3N3O3
reactant | acetyl chloride | 2.09 mmol, 148 μl | C(C)(=O)Cl | C2H3ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.7 mmol, 85 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-1-[2-(1-Acetyl-1H-indol-3-yl)-acetyl]-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N(CCC1)C(CC1=CN(C2=CC=CC=C12)C(C)=O)=O)(F)F | C24H22F3N3O4
